US07923456B2
Step 1: Trifluoro-methanesulfonic acid 3-fluoro-4-nitro-phenyl ester
To a solution of 3-fluoro-4-nitrophenol (12.5 g, 80 mmol) and trifluoromethane sulfonic anhydride (26.8 mL, 160 mmol) in DCM (300 mL) at 0° C. was added triethylamine (44.6 mL, 320 mmol) dropwise. The reaction mixture was stirred at 0° C. for 2 hours then allowed to warm to room temperature and stirred for 18 hours. The reaction was quenched by the addition of water and the mixture extracted with DCM. The organic layer was separated, washed with water and then dried (MgSO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0 to 40% ethyl acetate in cylcohexane) to give the title compound as a yellow oil (12.8 g, 56% yield). 1H NMR (DMSO-d6, 400 MHz) 8.39 (1H, t, J=8.83 Hz), 8.12 (1H, dd, J=11.09, 2.65 Hz), 7.67 (1H, ddd, J=9.20, 2.62, 1.52 Hz).

reactant | 3-fluoro-4-nitrophenol | 80 mmol, 12.5 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | trifluoromethane sulfonic anhydride | 160 mmol, 26.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 320 mmol, 44.6 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 3-fluoro-4-nitro-phenyl ester | 12.8 g, 56% yield | FC=1C=C(C=CC1[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C7H3F4NO5S
